US09210927B2
Step 2. ((E)-5-Bromo-2-fluoro-3-methylbenzaldehyde oxime
To a stirred solution of 5-bromo-2-fluoro-3-methylbenzaldehyde (3.5 g, 16.2 mmol) in ethanol (50.0 mL) were added sodium acetate (2.0 g, 24.3 mmol) and hydroxylamine hydrochloride (1.69 g, 24.3 mmol) at ambient temperature. The reaction mixture was stirred at ambient temperature for 3 h. The reaction mixture was concentrated on rotavapour to obtain crude compound, which was washed with water filtered and dried under vacuum to afford the title compound as a white solid: mp 126-127° C.; 1H NMR (400 MHz, CDCl3) δ 8.32 (s, 1H), 7.73 (d, J=2.4 Hz, 1H), 7.51 (s, 1H), 7.34 (d, J=2.4 Hz, 1H), 2.25 (s, 3H); ESIMS m/z 232.10 ([M+H]+).

reactant | 5-bromo-2-fluoro-3-methylbenzaldehyde | 16.2 mmol, 3.5 g | BrC=1C=C(C(=C(C=O)C1)F)C | C8H6BrFO
reactant | sodium acetate | 24.3 mmol, 2.0 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 24.3 mmol, 1.69 g | Cl.NO
solvent | ethanol | 50.0 mL | C(C)O | C2H6O
product | (E)-5-Bromo-2-fluoro-3-methylbenzaldehyde oxime | BrC=1C=C(C(=C(/C=N/O)C1)F)C | C8H7BrFNO
